US07923462B2
5-Hydroxy-4-methoxy-N,N-dimethyl-2-(5-methyl-[1,2,4]oxa-diazol-3-yl)benzenesulfonamide
To a mixture of 5-benzyloxy-4-methoxy-N,N-dimethyl-2-(5-methyl-[1,2,4]oxadiazol-3-yl)benzenesulfonamide and methylene chloride (20 mL) was added titanium(IV) chloride (0.472 g) under ice-bath cooling. After stirring at room temperature overnight, 2 mol/L hydrochloric acid and methylene chloride were added to the mixture. The separated organic layer was washed with 2 mol/L hydrochloric acid and brine successively, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: 10%-100% ethyl acetate/hexane, gradient elution) to give the title compound (121 mg).

reactant | 5-benzyloxy-4-methoxy-N,N-dimethyl-2-(5-methyl-[1,2,4]oxadiazol-3-yl)benzenesulfonamide | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)S(=O)(=O)N(C)C)C1=NOC(=N1)C)OC | C19H21N3O5S
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
catalyst | titanium(IV) chloride | 0.472 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-Hydroxy-4-methoxy-N,N-dimethyl-2-(5-methyl-[1,2,4]oxa-diazol-3-yl)benzenesulfonamide | 121 mg | OC=1C(=CC(=C(C1)S(=O)(=O)N(C)C)C1=NOC(=N1)C)OC | C12H15N3O5S
